US07144876B2
({2-Chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid
To a white suspension of ({2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid ethyl ester (0.362 g, 0.880 mmol) in an EtOH:H2O solution (4:1, 13.4 mL) was added 1M NaOH (0.033 mL, 0.84 mmol). Additional aliquots of 1M NaOH (1.98 μL, 50.34 mmol), ethanol (8 mL) and THF (10 mL) was added and the mixture was stirred for 2 days until the reaction was complete by TLC. The reaction suspension was neutralized by the addition of 1M HCl and concentrated to a white solid. The white solid was filtered and washed with H2O and ether to yield 0.142 g (44%) of the title compound as a yellow solid. 1H NMR (DMSO-d6): 8.19 (dd, 1H, J=5.2 and 0.8 Hz), 7.79 (s, 1H), 7.52 (dd, 2H, J=8.2 and 6.3 Hz), 7.41 (dd, 1H, J=5.5 Hz), 3.77 (s, 2H), 2.97 (s, 3H).

reactant | ({2-chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid ethyl ester | 0.880 mmol, 0.362 g | C(C)OC(CN(C)C1=C(C=CC(=C1)C1=NOC(=N1)C=1SC=CC1Cl)Cl)=O | C17H15Cl2N3O3S
reactant | NaOH | 0.84 mmol, 1M, 0.033 mL | [OH-].[Na+]
reactant | NaOH | 50.34 mmol, 1M, 1.98 μL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | H2O | 13.4 mL | O | H2O
solvent | EtOH | CCO | C2H6O
product | ({2-Chloro-5-[5-(3-chlorothiophene-2-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-methylamino)-acetic acid | 0.142 g, 44% | ClC1=C(C=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)N(C)CC(=O)O | C15H11Cl2N3O3S
